US08536179B2
1-(Methyloxy)-2,4-pentanedione (9.51 g, 73.12 mmol) and cyanoacetamide (6.17 g, 73.12 mmol) were dissolved in EtOH (76 mL) and heated until homogenous (ca. 75° C.). Piperidine (6.25 g, 73.12 mmol) was added and the reaction mixture heated at reflux for 20 mins, followed by cooling to room temperature. The contents were filtered to give a solid which was suspended in 140 mL water and stirred vigorously for 20 min. The heterogenous mixture was filtered to afford 6-methyl-4-[(methyloxy)methyl]-2-oxo-1,2-dihydro-3-pyridinecarbonitrile (7.8 g, 65.6%). LCMS MH+=179.0 1H NMR (400 MHz, DMSO-d6) δ 12.47 (br s, 1H), 6.26 (s, 1H), 4.40 (s, 2H), 3.29 (s, 3H), 2.25 (s, 3H).

reactant | 1-(Methyloxy)-2,4-pentanedione | 73.12 mmol, 9.51 g | COCC(CC(C)=O)=O | C6H10O3
reactant | cyanoacetamide | 73.12 mmol, 6.17 g | C(#N)CC(=O)N | C3H4N2O
reactant | Piperidine | 73.12 mmol, 6.25 g | N1CCCCC1 | C5H11N
solvent | EtOH | 76 mL | CCO | C2H6O
solvent | water | 140 mL | O | H2O
product | 6-methyl-4-[(methyloxy)methyl]-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | 7.8 g, 65.6% | CC1=CC(=C(C(N1)=O)C#N)COC | C9H10N2O2
